US04965284
7-Fluoro-3-dibenzothiopeneamine S,S-dioxide
A mixture of 4.2 g of 3-fluoro-7-nitrodibenzothiophene S,S-dioxide, 100 ml of dioxane, 25 ml of glacial acetic acid and 1.0 g of 5% palladium on carbon was hydrogenated for 30 minutes, then filtered through diatomaceous earth and evaporated. The residue was crystallized from 50 ml of acetonitrile, giving 2.85 g of the desired product as yellow crystals, mp 266°-270° C.

reactant | 3-fluoro-7-nitrodibenzothiophene S,S-dioxide | 4.2 g | FC=1C=CC2=C(S(C3=C2C=CC(=C3)[N+](=O)[O-])(=O)=O)C1 | C12H6FNO4S
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 7-Fluoro-3-dibenzothiopeneamine S,S-dioxide | 2.85 g | FC1=CC2=C(C3=C(S2(=O)=O)C=C(C=C3)N)C=C1 | C12H8FNO2S
